US08008334B2
4-(6,7-Dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)benzonitrile
A solution of 0.99 mmol of 4-(5H-pyrrolo[1,2-c]imidazol-7-yl)benzonitrile in 15 ml of MeOH is hydrogenated in the presence of 123 mg of 10% Pd/C at room temperature for 5.5 hours. The reaction mixture is subjected to clarifying filtration and the filtrate is evaporated. From the residue the title compound is obtained by means of flash chromatography (SiO2 60F) as a-pale reddish solid. Rf=0.22 (dichloromethane/ammonia (2M in EtOH) 97:3), Rt=4.43 (Gradient I).

reactant | 4-(5H-pyrrolo[1,2-c]imidazol-7-yl)benzonitrile | 0.99 mmol | C1=C2N(C=N1)CC=C2C2=CC=C(C#N)C=C2 | C13H9N3
solvent | MeOH | 15 ml | CO | CH4O
catalyst | Pd/C | 123 mg | [Pd] | Pd
product | 4-(6,7-Dihydro-5H-pyrrolo[1,2-c]imidazol-7-yl)benzonitrile | C1=C2N(C=N1)CCC2C2=CC=C(C#N)C=C2 | C13H11N3
